US04859661
To a stirred mixture of 130 ml of water, 130 ml of ether, 7.66 g of sodium nitrate and 10.0 g of 4-ethylphenol was added 13 ml of concentrated hydrochloric acid, and the reaction was continued at room temperature for 3 days. To the reaction mixture was added 300 ml of water and the mixture was extracted with 500 ml of ether. The extract was washed with water, then a brine and dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away under reduced pressure to give 13.0 g of 4-ethyl-2-nitrophenol.

reactant | sodium nitrate | 7.66 g | [N+](=O)([O-])[O-].[Na+]
reactant | 4-ethylphenol | 10.0 g | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | hydrochloric acid | 13 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | ether | 130 ml | CCOCC | C4H10O
solvent | water | 130 ml | O | H2O
product | 4-ethyl-2-nitrophenol | 13.0 g | C(C)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H9NO3
